US04165336
Preparation of sodium 2-methyl-5-(2-oxo-3-bornylidene methyl)benzene sulfonate
25.4 g of 3-p-tolylidene camphor are added to 64 ml of oleum containing 10% SO3, with cooling so as to keep the temperature of the reaction mixture around 35° C. The resulting mixture is then poured into 150 ml of a saturated sodium chloride solution, the mixture being cooled to below 25° C. A precipitate is obtained which is filtered and then washed with a saturated sodium chloride solution. The wet product is made into paste in 70 ml of water. It is then filtered and recrystallized in an 80:20 water-acetone mixture. Thus, 29.3 g of a white powder, melting at 240° C. are obtained.

reactant | 3-p-tolylidene camphor | 25.4 g | C1(=CCC(C=C1)=C1C(C2(CCC1C2(C)C)C)=O)C | C17H22O
reactant | oleum | 64 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
product | sodium 2-methyl-5-(2-oxo-3-bornylidene methyl)benzene sulfonate | 29.3 g | CC1=C(C=C(C=C1)C=C1C(C2(CCC1C2(C)C)C)=O)S(=O)(=O)[O-].[Na+] | InChI=1S/C18H22O4S.Na/c1-11-5-6-12(10-15(11)23(20,21)22)9-13-14-7-8-18(4,16(13)19)17(14,2)3;/h5-6,9-10,14H,7-8H2,1-4H3,(H,20,21,22);/q;+1/p-1
